US07790733B2
d) 8-Methoxy-4-methyl-3,4-dihydro-quinazolin-2-ylamine
A solution of 8-methoxy-4-methyl-2-methylsulfanyl-3,4-dihydro-quinazoline hydroiodide (610 mg, 1.7 mmol) in a mixture of acetonitrile (6 ml) and aqueous ammonia (25%, 1.2 ml) was heated in a sealed tube on a shaker for 48 h at 80° C. The title compound (158 mg, 46%, MS: m/e=192.1 [M+H+]) was isolated from the reaction mixture by preparative, reverse-phase HPLC (YMC CombiPrep C18 column 50×20 mm, solvent gradient 1-99% CH3CN in 0.05% triethylamine (aq) over 5.0 min, λ=230 nm, flow rate 40 ml/min) as a solid.

reactant | 8-methoxy-4-methyl-2-methylsulfanyl-3,4-dihydro-quinazoline hydroiodide | 1.7 mmol, 610 mg | I.COC=1C=CC=C2C(NC(=NC12)SC)C
reactant | ammonia | 1.2 ml | N | H3N
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | CH3CN | CC#N | C2H3N
product | 8-Methoxy-4-methyl-3,4-dihydro-quinazolin-2-ylamine | 158 mg, 46% | COC=1C=CC=C2C(NC(=NC12)N)C | C10H13N3O
